US07700589B2
90e) methyl (1′-{2-indan-5-ylmethyl-4-oxo-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-butyryl}-[4,4′]bipiperidinyl-1-yl)-acetate
Prepared analogously to Example 76e) from and 2-indan-5-ylmethyl-4-oxo-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-butanoic acid and methyl[4,4′]bipiperidinyl-1-yl-acetate.

reactant | 2-indan-5-ylmethyl-4-oxo-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-butanoic acid | C1CCC2=CC(=CC=C12)CC(C(=O)O)CC(N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C27H31N3O4
reactant | methyl[4,4′]bipiperidinyl-1-yl-acetate | COC(CN1CCC(CC1)C1CCNCC1)=O | C13H24N2O2
product | methyl (1′-{2-indan-5-ylmethyl-4-oxo-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-butyryl}-[4,4′]bipiperidinyl-1-yl)-acetate | C1CCC2=CC(=CC=C12)CC(C(=O)N1CCC(CC1)C1CCN(CC1)CC(=O)OC)CC(N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C40H53N5O5
